US07125901B2
To a solution of N-{4-[4-(hydroxymethyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide (867.4 mg) in methanol (0.6 ml) and chloroform (10 ml) was added manganese(IV) oxide (6.65 g) at 20° C. under N2 atmosphere, and the mixture was stirred for 19 hrs. The reaction mixture was filtered through a celite pad. The filtrate was evaporeted to give N-{4-(4-formylphenyl)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide as a yellow solid, that was used as crude in the next reaction.

reactant | N-{4-[4-(hydroxymethyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | 867.4 mg | OCC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C19H18N2O4S2
solvent | methanol | 0.6 ml | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese(IV) oxide | 6.65 g | [O-2].[Mn+4].[O-2]
product | N-{4-(4-formylphenyl)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | C(=O)C1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C19H16N2O4S2
